US07439395B2
10.5 g (143.6 mmol) of diethylamine are added with stirring and cooling to 12.0 g (47.9 mmol) of bis(dimethylamino)chlorocarbenium tetracyanoborate. The reaction mixture is stirred for 3 hours at room temperature, and 30 ml of water are then added. The lower phase is separated off and diluted with 30 ml of dichloromethane. The organic phases are subsequently washed a number of times with 30 ml of water and dried using MgSO4. The solvent is then distilled off, and the residue is dried for 3 hours under reduced pressure at 7 Pa and 60° C., giving 13.4 g of N,N,N′,N′-tetramethyl-N″,N″-diethylguanidinium tetracyanoborate as a liquid, corresponding to a yield of 97.4%.

reactant | diethylamine | 143.6 mmol, 10.5 g | C(C)NCC | C4H11N
reactant | bis(dimethylamino)chlorocarbenium tetracyanoborate | 47.9 mmol, 12.0 g | C(#N)[B-](C#N)(C#N)C#N.CN(C)[C+](Cl)N(C)C
solvent | water | 30 ml | O | H2O
product | N,N,N′,N′-tetramethyl-N″,N″-diethylguanidinium tetracyanoborate | 13.4 g, yield of 97.4% | C(#N)[B-](C#N)(C#N)C#N.CN(C(=[N+](CC)CC)N(C)C)C | InChI=1S/C9H22N3.C4BN4/c1-7-12(8-2)9(10(3)4)11(5)6;6-1-5(2-7,3-8)4-9/h7-8H2,1-6H3;/q+1;-1
